US03959261
Preparation of 3-Furfurylamino-6-sulfamoyl-biphenyl-4-carboxylic acid
3-thenylamino-6-sulfamoyl-biphenyl-4-carboxylic acid from 3-chloro-6-sulfamoyl-biphenyl-4-carboxylic acid and thenylamine; m.p. 214° - 216°C. (decomp.); yield 37% of theory; and 3-benzylamino-6-sulfamoyl-biphenyl-4-carboxylic acid from 3-chloro-6-sulfamoyl-biphenyl-4-carboxylic acid and benzylamine: m.p. 225° - 227°C. (decomp.); yield 53% of theory.

reactant | 3-thenylamino-6-sulfamoyl-biphenyl-4-carboxylic acid | C1=C(C=CS1)CNC1=C(C(=CC(=C1)C(=O)O)S(N)(=O)=O)C1=CC=CC=C1 | C18H16N2O4S2
reactant | 3-chloro-6-sulfamoyl-biphenyl-4-carboxylic acid | ClC=1C=C(C(=CC1C(=O)O)S(N)(=O)=O)C1=CC=CC=C1 | C13H10ClNO4S
reactant | thenylamine | C1(=CC=CS1)CN | C5H7NS
reactant | 3-benzylamino-6-sulfamoyl-biphenyl-4-carboxylic acid | C(C1=CC=CC=C1)NC=1C=C(C(=CC1C(=O)O)S(N)(=O)=O)C1=CC=CC=C1 | C20H18N2O4S
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | 3-Furfurylamino-6-sulfamoyl-biphenyl-4-carboxylic acid | C(C1=CC=CO1)NC=1C=C(C(=CC1C(=O)O)S(N)(=O)=O)C1=CC=CC=C1 | C18H16N2O5S
